US04734406
0.3 g (0.9 mmol) of isopropyl 6-[1-hydroxy-1-(4-methyl-3-pyridyl)methyl]-2-napthoate in 5 ml of absolute tetrahydrofuran is added, at 0° C., to 38 mg (1 mmol) of lithium alanate in 1 ml of absolute tetrahydrofuran, and the mixture is then stirred at room temperature (24 h). After addition of a further 40 mg (1 mmol) of lithium alanate the mixture is stirred at room temperature for 24 h. Excess lithium alanate is destroyed with 2 N HCl, and the solution is neutralized with sodium bicarbonate solution. It is extracted with ethyl acetate, and this is evaporated, and the residue is chromatographed on silica gel using ethyl acetate/methanol 4:1. 0.16 g (65%) of 1-(6-hydroxymethyl-2-naphthyl)-1-(4-methyl-3-pyridyl)methanol is obtained. Melting point 151°-3° C.

reactant | isopropyl 6-[1-hydroxy-1-(4-methyl-3-pyridyl)methyl]-2-napthoate | 0.9 mmol, 0.3 g | OC(C=1C=NC=CC1C)C=1C=C2C=CC(=CC2=CC1)C(=O)OC(C)C | C21H21NO3
reactant | lithium | 1 mmol, 38 mg | [Li] | Li
reactant | lithium | 1 mmol, 40 mg | [Li] | Li
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-(6-hydroxymethyl-2-naphthyl)-1-(4-methyl-3-pyridyl)methanol | 0.16 g, 65% | OCC=1C=C2C=CC(=CC2=CC1)C(O)C=1C=NC=CC1C | C18H17NO2
